US08017605B2
Step C: 2,6-difluoro-4-methylbenzoic Acid
Silver oxide (43.8 g, 0.189 mol) was placed in a flask along with water (200 mL) and sodium hydroxide (33.7 g, 0.842 mol). To it was added 2,6-difluoro-4-methylbenzaldehyde (29.23 g, 0.187 mol) in small portions over a 30 min period. After a vigorous exothermic reaction, the color of the reaction mixture changed from black to gray. Resulting thick suspension was stirred for 1 hr, filtered through a Buchner funnel. The filtrate was acidified to pH 2 with concentrated HCl to give a suspension. The precipitate was collected by suction filtration, dissolved in ether and dried over anhydrous Na2SO4, filtered and concentrated to give white solid (17.0 g, 53%). 1H-NMR (500 MHz, d6-DMSO): δ13.7 (br.s, 1H), 7.02 (d, 2H, J=9.3 Hz), 2.32 (s, 3H).

reactant | sodium hydroxide | 0.842 mol, 33.7 g | [OH-].[Na+]
reactant | 2,6-difluoro-4-methylbenzaldehyde | 0.187 mol, 29.23 g | FC1=C(C=O)C(=CC(=C1)C)F | C8H6F2O
catalyst | Silver oxide | 0.189 mol, 43.8 g | [Ag]=O
solvent | water | 200 mL | O | H2O
product | 2,6-difluoro-4-methylbenzoic Acid | 17.0 g, 53% | FC1=C(C(=O)O)C(=CC(=C1)C)F | C8H6F2O2
